US04739050
2-[2-(4-Bromobutoxy)-5-methoxyphenyl]-3,4-dihydro-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine (compound No. 43)
3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine (3.5 g, compound No. 8) and 1,4-dibromobutane (3.6 ml) are treated by the similar method as in Example 15 to give 3.9 g (80.0%) of the titled compound.

reactant | 3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine | OC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)SC | C17H17NO3S2
reactant | 1,4-dibromobutane | 3.6 ml | BrCCCCBr | C4H8Br2
product | 2-[2-(4-Bromobutoxy)-5-methoxyphenyl]-3,4-dihydro-4-methyl-2-methylthio-3-oxo-2H-1,4-benzothiazine | 3.9 g, 80.0% | BrCCCCOC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)SC | C21H24BrNO3S2
